US04465833
p-Ethynylbenzaldehyde
A solution of 16.0 g (79.2 mmoles) of p-trimethylsilylethynylbenzaldehyde in 50 ml of methanol was treated with 1 gm of potassium carbonate and the mixture was stirred under argon at 25° C. for two hours. The solvent methanol was removed and 100 ml of methylene chloride was added. The mixture was washed with aqueous sodium bicarbonate solution. The organic phase was separated, dried over magnesium sulfate and concentrated to a solid mass. The crude yield of p-ethynylbenzaldehyde was 10.3 g (79.2 moles, 100%). Further purification was carried out by sublimation at 80°-90° C./0.025-0.25 mm Hg to give white crystals: mp 88°-90°; ir (KBr) 3240 (medium, sharp, C≡CO), 2860, 2740 (weak, sharp, O=CH), 2100 (weak, sharp, C≡C), 1690 (strong broad, C=O) and 1590 cm-1 (medium, sharp C=C); mass spectrum: m/e 130 (100%, M.+), 129 (90.7%, M.+ --H), 101 (59.0% M.+ --CHO); nmr (CDCl3): δ3.21 (s, 1H, C≡C--H), 7.62 (distorted q, 4H, aromatic) and 9.88 ppm (s, 1H, CHO).

reactant | p-trimethylsilylethynylbenzaldehyde | 79.2 mmoles, 16.0 g | C[Si](C)(C)C#CC1=CC=C(C=O)C=C1 | C12H14OSi
reactant | potassium carbonate | 1 gm | C([O-])([O-])=O.[K+].[K+]
reactant | KBr | [K+].[Br-]
solvent | methanol | 50 ml | CO | CH4O
product | p-Ethynylbenzaldehyde | C(#C)C1=CC=C(C=O)C=C1 | C9H6O
